US07321041B2
2,5-Dichloro-7-(4-methoxyphenyl)-[1,6]naphthyridine (147 mg, 0.48 mmol) and benzyl amine (0.055 mL, 0.5 mmol) were combined in methoxyethanol (2 mL) and stirred at 80° C. for 72 hours. The crude reaction mixture was concentrated, and column chromatography afforded benzyl-[5-chloro-7-(4-methoxyphenyl)-[1,6]naphthyridin-2-yl]-amine (55 mg, 30%).

reactant | 2,5-Dichloro-7-(4-methoxyphenyl)-[1,6]naphthyridine | 0.48 mmol, 147 mg | ClC1=NC2=CC(=NC(=C2C=C1)Cl)C1=CC=C(C=C1)OC | C15H10Cl2N2O
reactant | benzyl amine | 0.5 mmol, 0.055 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | methoxyethanol | 2 mL | COC(C)O | C3H8O2
product | benzyl-[5-chloro-7-(4-methoxyphenyl)-[1,6]naphthyridin-2-yl]-amine | 55 mg, 30% | C(C1=CC=CC=C1)NC1=NC2=CC(=NC(=C2C=C1)Cl)C1=CC=C(C=C1)OC | C22H18ClN3O
